US07183276B2
To a solution of methyl [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]carboxylate (4.5 g) in diethyl ether (90 mL) was added lithium aluminum hydride (0.63 g) at 0° C. After stirring the reaction mixture at room temperature for 30 min, water (3.2 mL) was added, and the precipitated solid was removed by filtration. The filtrate was concentrated and the obtained solid was washed with isopropyl ether to give [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]methanol (3.63 g, yield 90%) as crystals. Recrystallization from ethanol gave colorless crystals. melting point: 132–133° C.

reactant | methyl [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]carboxylate | 4.5 g | CC=1OC(=C(N1)C1=CC=2CCCCC2C=C1)C(=O)OC | C16H17NO3
reactant | lithium aluminum hydride | 0.63 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.2 mL | O | H2O
solvent | diethyl ether | 90 mL | C(C)OCC | C4H10O
product | [2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)-5-oxazolyl]methanol | 3.63 g, yield 90% | CC=1OC(=C(N1)C1=CC=2CCCCC2C=C1)CO | C15H17NO2
